US07932272B2
3-Phenylsulfanyl-benzaldehyde
2-(3-Phenylsulfanyl-phenyl)-[1,3]dioxolane described in Preparation Example 91 (396 mg, 1.53 mmol) was dissolved in a mixture solution of ethanol (5 mL), water (5 mL), tetrahydrofuran (5 mL) and sulfuric acid (1 mL), and the solution was stirred for 2.5 hours under reflux. The reaction solution was cooled to 0° C., an aqueous solution of saturated sodium bicarbonate was added thereto, the solution was extracted with ethyl acetate, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1), and the title compound (323 mg, 1.51 mmol, 98%) was obtained as a colorless oil.

reactant | 2-(3-Phenylsulfanyl-phenyl)-[1,3]dioxolane | C1(=CC=CC=C1)SC=1C=C(C=CC1)C1OCCO1 | C15H14O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
product | 3-Phenylsulfanyl-benzaldehyde | 1.51 mmol, 323 mg, 98% | C1(=CC=CC=C1)SC=1C=C(C=O)C=CC1 | C13H10OS
